US09062048B2
Step C: 4-((4-methoxybenzyl)oxy)-6-(trifluoromethyl)quinoline-2-carbonitrile
A solution of 4-((4-methoxybenzyl)oxy)-6-(trifluoromethyl)quinoline-2-carboxamide (9 g, 24 mmol) from above step B, and TEA (10 mL, 72 mmol) was treated with trifluoroacetic anhydride (4.35 mL, 31.3 mmol) at room temperature and stirred for 2 h (completion of reaction monitored by LCMS). Solvent was removed under vacuum and the residue was purified by recrystallization from EtOAc/Hex to give the title compound.

reactant | 4-((4-methoxybenzyl)oxy)-6-(trifluoromethyl)quinoline-2-carboxamide | 24 mmol, 9 g | COC1=CC=C(COC2=CC(=NC3=CC=C(C=C23)C(F)(F)F)C(=O)N)C=C1 | C19H15F3N2O3
reactant | trifluoroacetic anhydride | 31.3 mmol, 4.35 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | 4-((4-methoxybenzyl)oxy)-6-(trifluoromethyl)quinoline-2-carbonitrile | COC1=CC=C(COC2=CC(=NC3=CC=C(C=C23)C(F)(F)F)C#N)C=C1 | C19H13F3N2O2
